US06710055B2
1-Methyl-2-[(4-amidinophenyl)oxymethyl]benzimidazol-5-yl-sulfonic acid-N-methyl-N-phenylamide hydrochloride
Prepared analogously to Example 32 from 1-methyl-2-[(4-cyanophenyl)oxymethyl]benzimidazol-5-yl-sulfonic acid-N-methyl-N-phenylamide and ethanolic hydrochloric acid, ethanol, and ammonium carbonate. Yield: 46% of theory, C23H23N5O3S (449.5); EKA mass spectrum: (M+H)+=450; (M+H+methanol)+=482; (M+2H)++=223.

reactant | 1-methyl-2-[(4-cyanophenyl)oxymethyl]benzimidazol-5-yl-sulfonic acid-N-methyl-N-phenylamide | CN(S(=O)(=O)C1=CC2=C(N(C(=N2)COC2=CC=C(C=C2)C#N)C)C=C1)C1=CC=CC=C1 | C23H20N4O3S
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | methanol | CO | CH4O
product | 1-Methyl-2-[(4-amidinophenyl)oxymethyl]benzimidazol-5-yl-sulfonic acid-N-methyl-N-phenylamide hydrochloride | Yield: 46% | Cl.CN(S(=O)(=O)C1=CC2=C(N(C(=N2)COC2=CC=C(C=C2)C(N)=N)C)C=C1)C1=CC=CC=C1 | InChI=1S/C23H23N5O3S.ClH/c1-27-21-13-12-19(32(29,30)28(2)17-6-4-3-5-7-17)14-20(21)26-22(27)15-31-18-10-8-16(9-11-18)23(24)25;/h3-14H,15H2,1-2H3,(H3,24,25);1H
